US06566377B2
4-Hydroxy-thiobenzamide
In a round bottomed flask, 4-hydroxybenzonitrile (5.00 g, 41.9 mmol), diethylthiophosphoric acid (7.02 g, 41.9 mmol), and water (8 ml) were heated with stirring to about 80° C. for about thirty minutes. An additional 10 ml of water was then added to the suspension, and the reaction was heated for about another one hour. The mixture was then allowed to stir for about sixteen hours at room temperature and was then extracted with water and 1:1 ether/ethyl acetate. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting solid was purified by column chromatography (silica gel; hexanes to ethyl acetate). The product was isolated as a yellow solid (5.54 g, 87% yield). 1H NMR (CD3OD): δ6.74 (d, 2H, J=9.1 Hz), 7.83 (d, 2H, J=8.7 Hz).

reactant | 4-hydroxybenzonitrile | 41.9 mmol, 5.00 g | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | diethylthiophosphoric acid | 41.9 mmol, 7.02 g | C(C)OP(OCC)(O)=S | C4H11O3PS
solvent | water | 10 ml | O | H2O
solvent | water | 8 ml | O | H2O
product | 4-Hydroxy-thiobenzamide | 5.54 g, 87% yield | OC1=CC=C(C(=S)N)C=C1 | C7H7NOS
